data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2197,2435,[CH3:14][O:15][C:16](=[O:17])[C:18](=[O+:19][CH-:20][C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[CH:20]([C:21]#[N:22])[O:19][C:18]2([C:16]([O:15][CH3:14])=[O:17])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,8.886291570170197,-75.76236883769542
997,1086,[CH3:15][N-:16][O+:17]=[C:18]([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:18]([C:19]#[N:20])([C:21](=[O:22])[O:23][CH3:24])[O:17][N:16]3[CH3:15],water,298.15,16.56141702346856,-56.49198331464535
1712,1894,[CH3:17][O:18][C:19](=[O:20])[c:21]1[nH+:22][c-:23]([C:24]#[N:25])[c:26](=[O:27])[o:28]1.[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([CH3:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([CH3:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]1([C:19]([O:18][CH3:17])=[O:20])[NH:22][C:23]2([C:24]#[N:25])[C:26](=[O:27])[O:28]1,water,298.15,22.93534681059833,-11.903001286209538
4987,5675,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([C:14](=[O:15])[NH:16][CH3:17])[C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14](=[O:15])[NH:16][CH3:17])([C:18](=[O:19])[NH:20][CH3:21])[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,16.87510809256804,-35.65162890839677
4646,5299,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23][c:24]1=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]2([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:24](=[O:25])[O:23]2,water,298.15,32.750336429676146,6.057218046638432
3151,3554,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[CH-:8][N+:9]#[C:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:8]([C:6]([CH3:5])=[O:7])[N:9]=[C:10]1[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,19.857966039068263,-37.47108572420705
1441,1583,[CH3:12][O:13][C:14](=[O:15])[c-:16]1[o+:17][c:18]([C:19]#[N:20])[o:21][c:22]1=[O:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:18]1([C:19]#[N:20])[O:17][C:16]2([C:14]([O:13][CH3:12])=[O:15])[C:22](=[O:23])[O:21]1,water,298.15,27.84451166115525,-17.159759789651755
1253,1369,[CH3:18][NH:19][C:20](=[O:21])[CH-:22][N+:23]#[N:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:24]=[N:23][CH:22]2[C:20]([NH:19][CH3:18])=[O:21],water,298.15,22.282029757814907,-38.27558498713845
1117,1215,[CH2:12]=[N+:13]([CH3:14])[C-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:15]([C:16](=[O:17])[NH:18][CH3:19])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:13]([CH3:14])[CH2:12]2,water,298.15,18.86875329816129,-29.125659708142127
3541,4039,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH-:11][NH+:12]=[C:13]([CH3:14])[C:15](=[O:16])[NH:17][CH3:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([CH3:14])([C:15](=[O:16])[NH:17][CH3:18])[NH:12][CH:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,13.890356921994352,-17.842767786046227
2359,2621,[CH3:13][O:14][C:15](=[O:16])[CH-:17][N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([CH3:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([CH3:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:20]([C:21]([CH3:22])=[O:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:18]([CH3:19])[CH:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,27.24734076408383,-31.69087968882834
